US05969140
To a suspension of 1-[2-(2-oxo-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(methoxycarbonyl)-6,7-dimethoxynaphthalene (200 mg) in tetrahydrofuran is added sodium borohydride (36 mg), and the mixture is refluxed. To the mixture is added methanol (0.3 ml) under reflux over a period of one hour. The mixture is cooled to room temperature, and thereto is added sodium borohydride (36 mg). To the mixture is added methanol (0.3 ml) under reflux over a period of one hour. After the reaction is complete, methylene chloride and diluted hydrochloric acid are added to the mixture. The methylene chloride layer is separated, washed, dried and concentrated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:methanol=20:1) to give 1-[2-(2-oxo-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (90 mg), which is listed in Table 6.

reactant | 1-[2-(2-oxo-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(methoxycarbonyl)-6,7-dimethoxynaphthalene | 200 mg | O=C1N(C2=CC=CC=C2C=C1)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)C(=O)OC)C(=O)OC | C30H24N2O7
reactant | sodium borohydride | 36 mg | [BH4-].[Na+]
reactant | methanol | 0.3 ml | CO | CH4O
reactant | sodium borohydride | 36 mg | [BH4-].[Na+]
reactant | methanol | 0.3 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[2-(2-oxo-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 90 mg | O=C1N(C2=CC=CC=C2C=C1)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C28H24N2O5
